US05593983
A stirred mixture of (2β,3α,5α)-21-chloro-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione (500 mg), sodium cyanide (500 mg), N,N-dimethylformamide (1.25 ml) in methanol (10 ml) and water (0.25 ml) was heated under reflux for 16 h. The resulting solution was cooled and poured into water (50 ml). The mixture was extracted with dichloromethane and the organic layer was washed with water to pH 7. After drying the solution over sodium sulfate, the solvent was removed under reduced pressure and the residue (430 mg) was chromatographed on silica gel. The purified product (208 mg) was crystallised from dichloromethane-methanol to give (2β,3α,5α)-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)-11,20-dioxopregnane-21-carbonitrile (96 mg). δ (CDCl3) 0.62 (s, 3H), 1.06 (s,3H), 1.22 (s,3H), 1.26 (s,3H) and 3.38 (s,2H).

reactant | (2β,3α,5α)-21-chloro-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione | 500 mg | ClCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H]([C@H](C[C@]4(C)[C@H]3C(C[C@]12C)=O)N1CC(OCC1)(C)C)O)=O | C27H42ClNO4
reactant | sodium cyanide | 500 mg | [C-]#N.[Na+]
reactant | N,N-dimethylformamide | 1.25 ml | CN(C=O)C | C3H7NO
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 0.25 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | (2β,3α,5α)-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)-11,20-dioxopregnane-21-carbonitrile | 96 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CC#N)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1N1CC(OCC1)(C)C)C)=O)C | C28H42N2O4
